US09062056B2
4,6-Dimethyl-benzo[d]isothiazole-3-carboxylic acid
To a solution of 4,6-dimethyl-benzo[d]isothiazole-3-carboxylic acid amide (20 mg, 0.097 mmol) in EtOH (10 mL) and H2O (2 mL) was added KOH (11 mg, 0.19 mmol). The solution was heated to 85° C. for 48 hours. The solution was cooled and was placed in an ice bath. Conc. HCl was added to adjust the pH of the solution to 2. The solid that precipitated out from the solution was collected by filtration. The white solid was dried and was confirmed to be the title compound (15 mg, 75%).

reactant | 4,6-dimethyl-benzo[d]isothiazole-3-carboxylic acid amide | 0.097 mmol, 20 mg | CC1=CC(=CC2=C1C(=NS2)C(=O)N)C | C10H10N2OS
reactant | KOH | 0.19 mmol, 11 mg | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | H2O | 2 mL | O | H2O
product | 4,6-Dimethyl-benzo[d]isothiazole-3-carboxylic acid | CC1=CC(=CC2=C1C(=NS2)C(=O)O)C | C10H9NO2S
